US07884101B2
Preparation of 3-methoxy-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)phenyl]-benzamide (Compound 733)
A mixture of 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenylamine (120 mg, 0.40 mmole), 3-methoxy-benzoyl chloride (81 mg, 0.48 mmole), and triethylamine (0.1 mL, 0.79 mmole) in 5 mL THF was stirred at room temperature for 10 minutes. The mixture was purified by HPLC to give the title compound as a white solid (TFA salt, 88 mg, 51%). 1H NMR (Acetone-d6, 400 MHz) 2.99-3.21 (m, 2H), 3.22-3.45 (m, 2H), 3.66 (t, J=4.80 Hz, 2H), 3.75 (s, 3H), 3.85 (s, 3H), 3.79-3.89 (m, 4H), 4.58 (t, J=4.80 Hz, 2H), 6.29 (d, J=2.02 Hz 1H), 7.13 (dd, J=8.34, 2.53 Hz, 1H), 7.22 (d, J=8.84 Hz, 1H), 7.42 (t, J=7.83 Hz, 1H), 7.47 (d, J=1.77 Hz, 1H), 7.52 (t, J=1.77 Hz, 1H), 7.56 (d, J=7.07 Hz, 1H), 7.80-7.83 (m, 1H), 7.91-7.96 (m, 1H), 9.54 (s, NH). Exact mass calculated for C24H28N4O4 436.2. found 437.5 (MH+).

reactant | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenylamine | 0.40 mmole, 120 mg | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCOCC1)N | C16H22N4O2
reactant | 3-methoxy-benzoyl chloride | 0.48 mmole, 81 mg | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | triethylamine | 0.79 mmole, 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-methoxy-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)phenyl]-benzamide | 88 mg, 51% | COC=1C=C(C(=O)NC2=CC(=C(C=C2)OCCN2CCOCC2)C=2N(N=CC2)C)C=CC1 | C24H28N4O4
